US07244841B2
5,10,15,20-tetrakis-(3-Hydroxy-phenyl)-porphyrin
3-Hydroxybenzaldehyde (0.910 g, 7.45 mmol) is dissolved in propionic acid (50 mL) and heated to 140° C. Pyrrole (0.52 mL, 7.45 mmol) is added in one portion and the mixture heated at reflux for 2 h. Stirring is continued for an additional 12 h at room temperature. Propionic acid is removed in vacuo and the residue dissolved in acetone and purified by chromatography on a column (250 g) of silica which is eluted with toluene containing a continuously increasing proportion of ethyl acetate. The product is eluted with toluene:ethyl acetate (6:1 by vol.). Solvent is removed in vacuo to afford the product as a violet solid.

reactant | 3-Hydroxybenzaldehyde | 7.45 mmol, 0.910 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | Pyrrole | 7.45 mmol, 0.52 mL | N1C=CC=C1 | C4H5N
solvent | propionic acid | 50 mL | C(CC)(=O)O | C3H6O2
product | 5,10,15,20-tetrakis-(3-Hydroxy-phenyl)-porphyrin | OC=1C=C(C=CC1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC(=CC=C4)O)N3)C3=CC(=CC=C3)O)=N2)C2=CC(=CC=C2)O | C44H30N4O4
